Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Bactrim / Sulfa (Sulfonamide Antibiotics) / 
Tegaderm Frame Style / adhesive / Wellbutrin
 
Attending: ___.
 
Chief Complaint:
Ataxic gait
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ F w/ PMH MVA, ___ (___), Hydrocephalus s/p VP shunt
___, chronic back pain, anemia, depression, insomnia.

She was in her usual state of health until last night. She felt
nauseous starting around 9pm, had sweats, couldn't get up in the
evening yesterday. Her husband measured her temperature and it
was normal. Around 12:15am, she was not able to get up off of
sofa to get to bed. Her husband had to help her to bathroom. She
couldn't get off toilet. She does feel lightheaded whenever she
sits up quickly. She states that she sways back and forth when
she tries to walk and is unable to walk. She has to support
herself by leaning on walls/furniture to get around since last
night. Denies feeling lightheaded when she attempts to walk
however. Does not think lightheadedness is related to walking
issue. Her walking had been ok up until last night. She took a 3
mile walk ___ without issue. Denies any vomiting. Reports a
URI Labor day weekend,  whichlasted a couple weeks, this was
consisting of a cough mostly. She also had a R eye infection
starting 1.5 weeks ago. She states she woke up and noted her eye
was red, and there was whitish/yellow discharge. She states she
saw urgent care, then an ophthalmologist, and received 
antibiotic
eye drops for this, which she has completed. She states that she
thinks the diagnosis was bacterial conjunctivitis. She was given
eryhthromycin ointment, ofloxacin ointment.

She notes several falls since ___, but no falls last night.

She reports a headache starting last night, ___ frontal, maybe
pressure like. She has not had headaches in last ___ months.  
MRI head was done early ___ this year as part of routine
clinic visit with Dr. ___ sees her for tinnitus and 
other
issues. This had been only significant for diffuse dural
thickening and enhancement, which was thought to be related to
her VPS pressure setting being too low, so this was increased.
VPS had been set at 50 prior to ___, at that appointment it
was switched to 100. She doesn't feel like there was any change
in her health following pressure adjustment. No nausea, 
vomiting,
headache. Her husband notes she seems sleepier in the last 2
months. She also notes that. Falling asleep during the day which
is unusual. Able to sleep well at night, which is unusual (has
insomnia). No difficulty being woken up. She denies any 
diarrhea,
water intake is good. She initially presented to ___ 
where
head CT labs were done then she was transferred here for further
eval. She did get some IVF at ___. This has not helped
symptoms at all.  There was no CT head report available for
review at the time of this note. In the ___ note it
states " Discussed with radiologist Note(s): CT head - no
hemorrhage; shunt appears in appropriate position; ill-defined
hypodensity in left frontal lobe, could represent artifact vs
can't r/o small infarction, could obtain MRI if clinical 
concern"

On neurologic review of systems, the patient denies headache,  
or
confusion. Denies difficulty with producing or comprehending
speech. Denies loss of vision, blurred vision, diplopia, 
vertigo,
tinnitus, hearing difficulty, dysarthria, or dysphagia. Denies
focal muscle weakness, numbness, parasthesia. Denies loss of
sensation. Denies bowel or bladder incontinence or retention. 

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies vomiting, diarrhea, constipation or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
1. MVA, ___ (___)
2. Hydrocephalus
3. VP shunt (___)
4. Chronic back pain
5. Anemia
6. Depression
7. Insomnia

 
Social History:
___
Family History:
noncontributory 
 
Physical Exam:
ADMISSION EXAM:
===============
Vitals: 98.0 86 146/89 16 100% RA 

Orthostatics

lying 
77  BP 159/86 

sitting 
94 BP 146/98 

unable to stand

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented  ___. Able to 
relate
history without difficulty. Able to do DOWB without difficulty.
able to name ___ backward, pauses at novemeber initially then
able to complete without much difficulty. Language is fluent 
with
intact repetition and comprehension. Normal prosody. There were
no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. Normal saccades. VFF
to confrontation.

Upgaze restricted bilaterally. Unable to bring inferior border 
of
___ above lower lid level. No sclera exposed b/w ___ and ___
lid on upgaze.

Other EOM intact
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5  
R  5    ___   ___  5   5    5  5     5     5  

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  ___ Tri ___ Pat Ach
L  3  3    3    4   2
R  3  3    3    ___ beats clonus at ankles b/l

pec jerk b/l

patellar reflex results in several beats of clonus

Plantar response appeared to be up bilaterally. though brisk
withdrawal made it difficult to definitely appreciate.

no clear jaw jerk

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF bilaterally.

HKS slightly off small amount of dysmetria

-Gait: Almost falls immediately when attempting to stand from
sitting. Immediately grabs on to surrounding object for
assistance. Appears very unsteady. Did not attempt further
testing.

DISCHARGE EXAM:
===============
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G 
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented. Able to relate history without 
difficulty. Able to do DOWB without difficulty. Language is 
fluent with intact repetition and comprehension. Normal prosody. 
There were no paraphasic errors. Able to follow both midline and 
appendicular commands. There was no evidence of apraxia or 
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. Normal saccades. VFF 
to confrontation. Upgaze restricted bilaterally. Unable to bring 
inferior border of ___ above lower lid level. No sclera exposed 
b/w ___ and ___ lid on upgaze.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis noted. Strength full throughout. 

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  ___ Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2

No evidence of any clonus at ankles bilaterally 

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF bilaterally.

-Gait: Able to stand from sitting position on edge of bed 
unassisted. Able to ambulate independently this AM with no 
ataxia. Mild unsteadiness. 

 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:56AM   GLUCOSE-115* UREA N-23* CREAT-0.6 SODIUM-142 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-24 ANION GAP-15
___ 06:56AM   estGFR-Using this
___ 06:56AM   ALT(SGPT)-24 AST(SGOT)-21 CK(CPK)-75 ALK 
PHOS-73 TOT BILI-0.5
___ 06:56AM   LIPASE-54
___ 06:56AM   cTropnT-<0.01
___ 06:56AM   CK-MB-1
___ 06:56AM   ALBUMIN-4.3 CALCIUM-10.1 PHOSPHATE-3.4 
MAGNESIUM-2.1
___ 06:56AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 06:56AM   WBC-8.5 RBC-4.00 HGB-12.3 HCT-37.6 MCV-94 
MCH-30.8 MCHC-32.7 RDW-12.0 RDWSD-41.5
___ 06:56AM   NEUTS-66.3 ___ MONOS-9.1 EOS-1.8 
BASOS-0.5 IM ___ AbsNeut-5.65 AbsLymp-1.86 AbsMono-0.77 
AbsEos-0.15 AbsBaso-0.04
___ 06:56AM   PLT COUNT-190
___ 06:56AM   ___ PTT-25.2 ___
___ 06:52AM URINE  HOURS-RANDOM
___ 06:52AM URINE  UHOLD-HOLD
___ 06:52AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:52AM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 06:52AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG

DISCHARGE LABS:
===============
___ 05:45AM BLOOD WBC-7.7 RBC-4.15 Hgb-13.3 Hct-38.4 MCV-93 
MCH-32.0 MCHC-34.6 RDW-12.2 RDWSD-41.6 Plt ___
___ 05:45AM BLOOD Glucose-107* UreaN-24* Creat-0.8 Na-139 
K-4.5 Cl-101 HCO3-26 AnGap-12
___ 05:45AM BLOOD Calcium-9.5 Phos-4.1 Mg-2.2

IMAGING:
========
Shunt series ___:

AP and lateral projections of the head demonstrates the proximal 
tip of the ventriculoperitoneal shunt in the mid cranium 
following an inferior trajectory seen on AP views of the torso 
with the distal tip projecting over the mid-upper abdomen.  
There is no unexpected discontinuity along the catheter.  Lungs 
are grossly clear.  Nonobstructive bowel gas pattern.  
Degenerative changes noted at the hips, right greater than left. 

  
IMPRESSION:  
  
Demonstration of appropriate trajectory of VP shunt.  No 
unexpected 
discontinuity along the catheter. 

Skull series ___:

Lateral projections of the head demonstrate the proximal tip of 
the 
ventriculoperitoneal shunt terminating in the mid cranium in 
overall similar position to prior.  En face view of the shunt 
valve is demonstrated. 
  
IMPRESSION:  
  
Similar appearance of ventriculoperitoneal shunt in overall 
appropriate 
trajectory. 
  
CTA head/neck ___:

1. No acute intracranial abnormality by unenhanced head CT.  No 
evidence of acute infarction. 
2. Stable right posterior approach ventriculostomy catheter with 
tip in the frontal horn of the left lateral ventricle.  No 
hydrocephalus. 
3. Mild narrowing of the carotid siphons intracranially due to 
calcified 
plaque.  Otherwise, remaining circle ___ vasculature is 
widely patent 
without additional stenosis, occlusion, or aneurysm. 
4. Widely patent bilateral cervical vertebral and carotid 
arteries.  No ICA stenosis by NASCET criteria. 
  
MRI cervical spine with/without contrast ___:

IMPRESSION: 
  
1. No acute intracranial abnormality by unenhanced head CT.  No 
evidence of acute infarction. 
2. Stable right posterior approach ventriculostomy catheter with 
tip in the frontal horn of the left lateral ventricle.  No 
hydrocephalus. 
3. Mild narrowing of the carotid siphons intracranially due to 
calcified 
plaque.  Otherwise, remaining circle ___ vasculature is 
widely patent 
without additional stenosis, occlusion, or aneurysm. 
4. Widely patent bilateral cervical vertebral and carotid 
arteries.  No ICA stenosis by NASCET criteria. 
  
MRI head with/without contrast ___:

1. Study limited secondary to VP shunt hardware artifact and 
motion as 
described. 
2. Within limits of study, no definite evidence of acute 
infarct. 
3. Grossly stable right parietal approach ventriculostomy 
catheter and 
ventricular size as described. 
4. No evidence of intracranial hemorrhage. 
5. Within limits of study, no definite evidence of enhancing 
intracranial 
mass. 

Skull series ___:

IMPRESSION:  
  
The ___ valve setting is at approximately 110-120 mm 
H2O, unchanged when compared to the skull radiographs pre MRI. 
  

 
Brief Hospital Course:
PATIENT SUMMARY:
================
This is a ___ year old woman with PMH of MVA, SDH, subsequent 
hydrocephalus s/p VP shunt ___, chronic back pain, anemia, 
depression, and insomnia who presented with gait instability.

Her exam was notable for limited upgaze and unstable gait. She 
was diffusely hyper-reflexic on admission but this resolved 
without intervention. CT without significant interval change in 
degree of hydrocephalus. MRI showed no evidence of infarct in 
the brain and no evidence of worsening hydrocephalus. It did 
show multilevel cervical spondylosis, most pronounced at C4-5, 
where there is mild-to-moderate vertebral canal, deformation of 
the ventral thecal sac and spinal cord without definite 
associated cord signal abnormality, and moderate bilateral 
neural foraminal narrowing. 

Given above imaging and exam, most likely etiology for patient's 
symptoms was felt to be cervical spondylosis. Perhaps triggered 
by the way the patient slept prior to presentation.

TRANSITIONAL ISSUES:
====================
# Outpatient ___ (seen by ___ in house and cleared for discharge 
home)

# Cervical pillow to be used at night. Consider soft cervical 
collar when not sleeping.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 20 mg PO QPM 
2. DULoxetine 60 mg PO DAILY 
3. Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg (1,500 
mg)-800 unit oral BID 
4. ALPRAZolam 0.5 mg PO QHS 
5. TraZODone 75 mg PO QHS:PRN Insomnia 
6. Aspirin 81 mg PO DAILY 
7. zaleplon 5 mg oral QHS:PRN 

 
Discharge Medications:
1.  ALPRAZolam 0.5 mg PO QHS  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 20 mg PO QPM  
4.  Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral BID  
5.  Cyanocobalamin 500 mcg PO DAILY  
6.  DULoxetine 60 mg PO DAILY  
7.  TraZODone 75 mg PO QHS:PRN Insomnia  
8.  zaleplon 5 mg oral QHS:PRN insomnia  
9.Outpatient Physical Therapy
ICD-10: ___
Please provide outpatient ___ to improve walking and gait 
stability.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervical spondylosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you at ___ 
___.

You came to the hospital because of trouble walking and 
unsteadiness.

While here, you had an MRI of your brain and your neck. 
Fortunately this showed no stroke or mass. Your ventricles 
looked unchanged in size compared to prior imaging studies. 

The MRI of your neck showed something called cervical 
spondylosis. This is a condition, outlined below, that can cause 
you to have difficulty walking and also cause feelings of 
imbalance.

You were seen by our physical therapist in the hospital. You 
should have outpatient physical therapy to help continue to 
improve your strength and walking as well as your send of 
balance.

We wish you the best!
Your ___ Care Team

CERVICAL SPONDYLOSIS INFORMATION:
=================================
In people with cervical spondylosis, the bones that make up the 
spine (called the vertebrae) start to wear down. Then they form 
bumps called bone spurs, which bulge into hollow space where the 
spinal cord normally sits. As a result, the space for the spinal 
cord gets smaller. In severe cases or with a neck injury, the 
bone spurs can squeeze the spinal cord and damage it. 
Fortunately this is not the case in your spinal cord.

You should:

___ heavy lifting, active sports, slippery floors, and 
any activities that put you at risk of falling. Also avoid 
activities that involve moving your neck a lot.

___ sure the headrest in your car is positioned at the 
back of your head, in the right place to keep your head from 
slamming back.

___ a cervical pillow as discussed. You can also wear the 
neck brace that was provided to you in the hospital when not 
sleeping.

 
Followup Instructions:
___